US07696347B2
2-Methoxymethyl-5-nitro-thiophene
A mixture of potassium methoxymethyl trifluoroborate (33 mg, 0.22 mmol), 2-bromo-5-nitrothiophene (30 mg, 0.14 mmol), 1,4-dioxane (1.5 ml), water (0.15 ml), cesium carbonate (235 mg, 0.72 mmol), palladium (II) acetate (3.2 mg, 0.014 mmol), and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (9.0 mg, 0.014 mmol) was stirred at 100° C. (external temperature) for 6 hours. After the reaction mixture was cooled at room temperature, water and ethyl acetate were added to the mixture, followed by filtration using Celite. The organic layer was washed with an aqueous saturated sodium chloride solution, and the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=3:1) to obtain the title compound (2.7 mg, 0.016 mmol, 11%).

reactant | 2-bromo-5-nitrothiophene | 0.14 mmol, 30 mg | BrC=1SC(=CC1)[N+](=O)[O-] | C4H2BrNO2S
reactant | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
reactant | cesium carbonate | 0.72 mmol, 235 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.014 mmol, 9.0 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
catalyst | palladium (II) acetate | 0.014 mmol, 3.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 0.15 ml | O | H2O
product | 2-Methoxymethyl-5-nitro-thiophene | 0.016 mmol, 2.7 mg, 11% | COCC=1SC(=CC1)[N+](=O)[O-] | C6H7NO3S
